US07229999B2
6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxy-2-methyl-propyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-fluorophenylboronic acid and 1-amino-2-methyl-propan-2-ol hydrochloride as starting materials to yield 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxy-2-methyl-propyl)-nicotinamide. MS (ISP) 359.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-amino-2-methyl-propan-2-ol hydrochloride | Cl.NCC(C)(O)C
product | 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxy-2-methyl-propyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC(C)(C)O)C=C1C1=CC=C(C=C1)F | C20H23FN2O3
